US07179823B1
Sodium hydride (60%, oily, 60.0 mg) was added to a solution of ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (478 mg) and 3-chloro-2-chloromethyl-6-phenylpyridine (357 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[1-[4-(3-chloro-6-phenyl-2-pyridylmethoxy)benzyl]-3-ethoxy-1H-pyrazol-4-yl]propionate (740 mg, yield: 95%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | Sodium hydride | 60.0 mg | [H-].[Na+]
reactant | ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 478 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C17H22N2O4
reactant | 3-chloro-2-chloromethyl-6-phenylpyridine | 357 mg | ClC=1C(=NC(=CC1)C1=CC=CC=C1)CCl | C12H9Cl2N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[1-[4-(3-chloro-6-phenyl-2-pyridylmethoxy)benzyl]-3-ethoxy-1H-pyrazol-4-yl]propionate | 740 mg, yield: 95% | ClC=1C(=NC(=CC1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)OCC)C=C1 | C29H30ClN3O4
